US08293768B2
Synthesis of ethyl 2-(3-(cyclopropylmethyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 13, making variations as required to replace 4-(trifluoromethyl)benzyl bromide with (bromomethyl)cyclopropane to react with ethyl 4-methyl-2-(2-oxotetrahydropyrimidin-1(2H)-yl)thiazole-5-carboxylate, the title compound was obtained as a colorless solid in quantitative yield: MS (ES+) m/z 324.2 (M+1).

reactant | 4-(trifluoromethyl)benzyl bromide | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
reactant | ethyl 4-methyl-2-(2-oxotetrahydropyrimidin-1(2H)-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCCC1)=O | C11H15N3O3S
product | ethyl 2-(3-(cyclopropylmethyl)-2-oxotetrahydropyrimidin-1(2H)-yl)-4-methylthiazole-5-carboxylate | quantitative yield | C1(CC1)CN1C(N(CCC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C15H21N3O3S
